US08193246B2
11-Iodo-undecanoic acid ethyl ester was synthesized according to Bergbreiter, J. Org. Chem., 40/6 (1975) 779. Briefly, 246.6 g 11-Iodo undecanoic acid, 440 ml dry ethanol, 440 ml dry toluol and 5 ml H2SO4 (98%) were combined. The mixture was distilled whereby about 400 ml aceotrope was removed at 75° C. or 76° C., respectively. Then 15 g K2CO3 was added and after 5 min the mixtures was filtered and finally distilled at a bath temperature of 115° C. The resulting brown oil was purified by filtration through a frit filled with silica gel (eluent: acetic acid ethyl ester/petrol ether 1:7). The final product was characterized by 1H-NMR and thin layer chromatography.

reactant | 11-Iodo undecanoic acid | 246.6 g | ICCCCCCCCCCC(=O)O | C11H21IO2
reactant | ethanol | 440 ml | C(C)O | C2H6O
reactant | H2SO4 | 5 ml | OS(=O)(=O)O | H2O4S
solvent | toluol | 440 ml | C1(=CC=CC=C1)C | C7H8
product | 11-Iodo-undecanoic acid ethyl ester | C(C)OC(CCCCCCCCCCI)=O | C13H25IO2
